US05273674
97.5 g lead (IV) acetate were added in portions with stirring at 50° C. to a mixture of 180 ml glacial acetic acid and 115 ml acetanhydride. After addition of 14.9 g furan, the reaction mixture was heated for 1.5 hours to 60 to 65° C. The solvent was then largely removed in vacuo (approx. 10 torr, bath temperature 60° C.). 400 ml anhydrous diethyl ether were added to the residue which was then subjected to fractional distillation after filtration and removal of the solvent. 24.5 g 2,5-diacetoxy-2,5-dihydrofuran were obtained in the boiling range from 81° C. to 85° C./0.01 torr in the form of a gas chromatographically 99% pure liquid having a refractive index nD25 of 1.4538.

reactant | lead (IV) acetate | 97.5 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | acetanhydride | 115 ml | CC(=O)OC(=O)C | C4H6O3
reactant | furan | 14.9 g | O1C=CC=C1 | C4H4O
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 2,5-diacetoxy-2,5-dihydrofuran | 24.5 g | C(C)(=O)OC1OC(C=C1)OC(C)=O | C8H10O5
